US08357711B2
4-{[(2,4-Dimethoxybenzyl)(1,3-thiazol-2-yl)amino]sulfonyl}benzoic acid
N-(2,4-dimethoxybenzyl)-1,3-thiazol-2-amine (3.83 g, 0.0153 mol; Icagen) was dissolved in THF (70 mL, 0.8 mol) and cooled in an ice bath. 1.0 M of Lithium hexamethyldisilazide in THF (33 mL) was added dropwise to the reaction. After 30 minutes, a solution of 4-(chlorosulfonyl)benzoic acid (3.07 g, 0.0139 mol) in THF (30 mL, 0.4 mol) was added dropwise to the reaction. The reaction was stirred overnight then quenched with 0.5 N HCl and diluted with ethyl acetate. The phases were separated and the organic phase was washed with 2× with 0.5N HCl. The organic phase was dried over magnesium sulfate, treated with activated carbon and filtered through Celite. The filtrate was evaporated to a residue and triturated with ethyl acetate. The solid was collected by filtration. Vacuum drying afforded the product as a tan solid (2.55 g, 40%).

reactant | N-(2,4-dimethoxybenzyl)-1,3-thiazol-2-amine | 0.0153 mol, 3.83 g | COC1=C(CNC=2SC=CN2)C=CC(=C1)OC | C12H14N2O2S
reactant | Lithium hexamethyldisilazide | 1.0 M | C[Si]([N-][Si](C)(C)C)(C)C.[Li+]
reactant | 4-(chlorosulfonyl)benzoic acid | 0.0139 mol, 3.07 g | ClS(=O)(=O)C1=CC=C(C(=O)O)C=C1 | C7H5ClO4S
solvent | THF | 33 mL | C1CCOC1 | C4H8O
solvent | THF | 0.4 mol, 30 mL | C1CCOC1 | C4H8O
solvent | THF | 0.8 mol, 70 mL | C1CCOC1 | C4H8O
product | 4-{[(2,4-Dimethoxybenzyl)(1,3-thiazol-2-yl)amino]sulfonyl}benzoic acid | 2.55 g, 40% | COC1=C(CN(S(=O)(=O)C2=CC=C(C(=O)O)C=C2)C=2SC=CN2)C=CC(=C1)OC | C19H18N2O6S2
